US07858624B2
To a solution of (R)-tert-butyl 2-((S)-(2-azidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate (423 mg, 0.9 mmol) in EtOAc (20 mL) was added wetted Pd/C (42 mg) and the mixture was hydrogenated overnight using a balloon of hydrogen. The mixture was filtered through a pad of Celite and the solvent was removed to give (R)-tert-butyl 2-((S)-(2-aminoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate (430 mg, 100%). MS (E/Z): 445 (M+H+)

reactant | (R)-tert-butyl 2-((S)-(2-azidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate | 0.9 mmol, 423 mg | N(=[N+]=[N-])CCO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C25H31FN4O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 42 mg | [Pd] | Pd
product | (R)-tert-butyl 2-((S)-(2-aminoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate | 430 mg, 100% | NCCO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C25H33FN2O4
